US05719176
2-Amino-2-(1,2-dihydroxyoctadecyl)-1,3-propanediol
2-Amino-2-(1,2-dihydroxy-4-octadecenyl)-1,3-propanediol (68.0 mg) was dissolved in 14 ml of methanol and 6.8 mg of 5% palladium-carbon was added thereto. The catalytic reduction was conducted at ordinary temperature and at atmospheric pressure day and night. After the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to give 34.3 mg of the subject compound.

reactant | 2-Amino-2-(1,2-dihydroxy-4-octadecenyl)-1,3-propanediol | 68.0 mg | NC(CO)(CO)C(C(CC=CCCCCCCCCCCCCC)O)O | C21H43NO4
solvent | methanol | 14 ml | CO | CH4O
catalyst | palladium-carbon | 6.8 mg | [C].[Pd]
product | 2-Amino-2-(1,2-dihydroxyoctadecyl)-1,3-propanediol | 34.3 mg | NC(CO)(CO)C(C(CCCCCCCCCCCCCCCC)O)O | C21H45NO4
